US04217306
Substitution of equivalent quantities of α-[2-(diisopropylamino)ethyl]-α-(1-naphthyl)acetonitrile and 1-(2-chloroethyl)-4-phenylpiperidine for α-(4-biphenylyl)-α-[2-(diisopropylamino)ethyl]acetonitrile and 2-chloro-N,N-diisopropylethylamine called for in Example 2, Method B, respectively and substantial repetition of the procedure detailed therein, affords α-[2-(diisopropylamino)ethyl]-α-(1-naphthyl)-α-[2-(4-phenyl-1-piperidinyl)ethyl]acetonitrile.

reactant | α-[2-(diisopropylamino)ethyl]-α-(1-naphthyl)acetonitrile | C(C)(C)N(CCC(C#N)C1=CC=CC2=CC=CC=C12)C(C)C | C20H26N2
reactant | 1-(2-chloroethyl)-4-phenylpiperidine | ClCCN1CCC(CC1)C1=CC=CC=C1 | C13H18ClN
reactant | α-(4-biphenylyl)-α-[2-(diisopropylamino)ethyl]acetonitrile | C1(=CC=C(C=C1)C(C#N)CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C22H28N2
reactant | 2-chloro-N,N-diisopropylethylamine | ClCCN(C(C)C)C(C)C | C8H18ClN
product | α-[2-(diisopropylamino)ethyl]-α-(1-naphthyl)-α-[2-(4-phenyl-1-piperidinyl)ethyl]acetonitrile | C(C)(C)N(CCC(C#N)(CCN1CCC(CC1)C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12)C(C)C | C33H43N3
